US09340538B2
Step A: 2-(2-(4-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-6-methyl-1,4-dihydropyrimidin-2-yl)thiazol-4-yl)acetic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-methoxy-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (1 g, 2 mmol) was reacted with sodium hydroxide (0.24 g, 6 mmol) according to the procedure as described Example 58, Step B to give the title compound as a yellow solid (0.87 g, 90%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(4-(2-methoxy-2-oxoethyl)thiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 1 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)OC | C20H19BrFN3O4S
reactant | sodium hydroxide | 6 mmol, 0.24 g | [OH-].[Na+]
product | 2-(2-(4-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-6-methyl-1,4-dihydropyrimidin-2-yl)thiazol-4-yl)acetic acid | 0.87 g, 90% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=C(N1)CC(=O)O | C19H17BrFN3O4S
